Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
rash 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old female with history of diabetes presents due to left 
leg cellulitis. Pt states that his wound started on ___ when he 
injured his anterior shin with a wood splinter (which was 
removed per patient's daughter). Pt was started on cephalexin 
without improvement, then switched to Augmentin, again without 
improvement. Patient went to ___ urgent care, had I&D (culture 
pending apparently at OSH) and 2 doses IV antibiotics, which 
improved the wound.  He was then started on levofloxacin. Since 
then, wound has not been improving, redness spreading and 
patient's blood sugars have been out of control. Patient also 
has a cough.  There are no fevers or chills or additional 
complaints.

In the ED, initial vitals were 98.9 96 144/75 18 99% RA.  Labs 
showed WBC 5.7K, blood sugar 52, lactate 1.3.  Ultrasound of the 
LLE showed no retained foreign body.  CXR showed no acute 
process.  He was started on 1 gram IV vancomycin.  Blood culture 
was sent.

Currently, the patient notes no pain in her leg.  There is no 
chest pain or dyspnea.  She reports stuffy nose and very 
intermittent cough.

 
Review of systems:  
10 pt ROS negative other than noted
 
Past Medical History:
Diabetes
CAD
 
Social History:
___
Family History:
Mother with CAD, aunt with stomach cancer
 
Physical Exam:
Admission PE: 
Vitals: T: 97.7 BP: 163/53 P: 68 R: 18 O2: 95% on RA  
GEN: Alert. Fatigued appearing but comfortable, no acute signs 
of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP 
clear, MMM.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: left shin with 15 x 5 cm area of erythema with traumatic 
wound in center, non-purulent, 1+ edema at area of erythema, 
right leg with no edema
Neuro: non-focal.  
PSYCH: Appropriate and calm. 

Discharge PE: 
Vitals: T: 98.9 BP: 134/72 P: 70 R: 18 O2: 98% on RA  
GEN: Alert. Fatigued appearing but comfortable, no acute signs 
of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP 
clear, MMM.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: left shin with small traumatic wound in center, 
non-purulent, mild surrounding erythema
Neuro: non-focal.  
PSYCH: Appropriate and calm. 
 
Pertinent Results:
___ 04:00PM BLOOD WBC-5.7 RBC-4.48 Hgb-12.7 Hct-38.6 MCV-86 
MCH-28.3 MCHC-32.9 RDW-13.1 RDWSD-40.3 Plt ___
___ 04:00PM BLOOD Neuts-73.1* Lymphs-15.8* Monos-8.8 
Eos-1.4 Baso-0.5 Im ___ AbsNeut-4.17 AbsLymp-0.90* 
AbsMono-0.50 AbsEos-0.08 AbsBaso-0.03
___ 04:00PM BLOOD Glucose-52* UreaN-25* Creat-0.7 Na-139 
K-3.9 Cl-101 HCO3-27 AnGap-15
___ 04:09PM BLOOD Lactate-1.___ year old female with history of diabetes presents due to left 
leg cellulitis
  
# Cellulitis: likely secondary to diabetic state and traumatic 
wound.  Likely etiology is Staph or Strep, and all antibiotics 
she has been treated with do not reliably cover all Staph 
species, notably MRSA.  There is no fevers, leukocytosis or 
hemodynamic compromise.  Cultures from OSH clinic showed staph 
aureus (resistant to ampicillin, clindamycin, and penicillin.  
Sensitive to Bactrim, cefazolin, ciprofloxacin, erythromycin, 
gentamicin, oxacillin, tetracycline, vancomycin).  Placed on 
vancomycin on admission, quickly improved.
- Discharged on 5 more days of PO Bactrim and keflex
- wound care
- elevate leg
 
# Diabetes: blood sugars have been labile, likely secondary to 
bacterial infection.
- continue home Lantus
- sliding scale, adjust as needed
 
# CAD
# Elevated blood pressure: was reportedly on medications in the 
past (beta blocker, statin) but did not tolerate.  BP normal 
here. Continue home aspirin.
 
# DVT ppx: Heparin SC  
# Diet: Regular diabetic  
# GI Prophy: PRN
# IV access: PIV  
# Precautions: None  
# Code status: Full code, confirmed  
 
# Dispo: home

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Glargine 20 Units Breakfast

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Glargine 20 Units Breakfast
3. Cephalexin 500 mg PO QID Duration: 5 Days 
RX *cephalexin 500 mg 1 tablet(s) by mouth four times a day Disp 
#*20 Tablet Refills:*0
4. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 5 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*10 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Infected leg wound
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with worsening infection in your left leg.  
Your infection quickly improved with IV vancomycin, you are 
being discharged on 5 more days of PO antibiotics.  Please 
follow-up with your PCP ___ 1 week.
 
Followup Instructions:
___